US07572820B2
1-{[5-(3,5-Difluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-(chloromethyl)-5-(3,5-difluorophenyl)-1,2,4-oxadiazole: 1H NMR (400 MHz, CDCl3) δ 7.66 (d, J=8.3 Hz, 1H), 7.56 (m, 3H), 7.05 (t, J=8.5 Hz, 1H), 6.63 (s, 1H), 5.46 (s, 2H), 2.83 (d, J=7.1 Hz, 2H), 2.13 (m, 1H), 1.07 (d, J=6.6 Hz, 6H); MS (ES) m/z 461 (M+1).

reactant | 2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC(CC=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N)C | C14H13F3N2
reactant | 3-(chloromethyl)-5-(3,5-difluorophenyl)-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC(=CC(=C1)F)F | C9H5ClF2N2O
product | 1-{[5-(3,5-Difluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC=1C=C(C=C(C1)F)C1=NC(=NO1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)CC(C)C | C23H17F5N4O
